US07732463B2
1-Bromo-2-(2-chloro-4-methoxy-phenylsulfanyl)-5-fluoro-benzene (intermediate for 2o).
Prepared from 2-chloro-1-iodo-4-methoxy-benzene and 2-bromo-4-fluoro-benzenethiol (prepared from 2-bromo-4-fluoro-phenylamine by diazotization according to the procedure reported for the conversion of 3-toluidine to 3-thiocresol by Tarbell and Fukushima J. Am. Chem. Soc. 1946, 68, 1456-1460).

reactant | 2-chloro-1-iodo-4-methoxy-benzene | ClC1=C(C=CC(=C1)OC)I | C7H6ClIO
reactant | 2-bromo-4-fluoro-benzenethiol | BrC1=C(C=CC(=C1)F)S | C6H4BrFS
reactant | 2-bromo-4-fluoro-phenylamine | BrC1=C(C=CC(=C1)F)N | C6H5BrFN
reactant | 3-toluidine | NC1=CC(=CC=C1)C | C7H9N
reactant | 3-thiocresol | CC1=CC(=CC=C1)S | C7H8S
product | 1-Bromo-2-(2-chloro-4-methoxy-phenylsulfanyl)-5-fluoro-benzene | BrC1=C(C=CC(=C1)F)SC1=C(C=C(C=C1)OC)Cl | C13H9BrClFOS
